US08466282B2
Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
A solution of tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (200 mg), 4-methoxybutyl methanesulfonate (107 mg) and cesium carbonate (254 mg) in N,N-dimethylacetamide (5 ml) was stirred at 60° C. for 15 hr. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate (10 ml×2). The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (5:95-3:7) was concentrated under reduced pressure to give the object product (190 mg).

reactant | tert-butyl (3S,5R)-3-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 200 mg | N1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C27H39N5O5
reactant | 4-methoxybutyl methanesulfonate | 107 mg | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 254 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | Tert-butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 190 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C | C32H49N5O6
